US07067517B2
Methyl-phenyl-carbamic acid 4-(4-trifluoromethyl-benzylcarbamoyl)-phenyl ester
The title product was prepared from 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester and 4-trifluoromethyl-benzylamine (94%, white crystals). HPLC-MS: m/z=429.2 (M+1); Rt: 4.35 min.

reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
reactant | 4-trifluoromethyl-benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | Methyl-phenyl-carbamic acid 4-(4-trifluoromethyl-benzylcarbamoyl)-phenyl ester | FC(C1=CC=C(CNC(=O)C2=CC=C(C=C2)OC(N(C2=CC=CC=C2)C)=O)C=C1)(F)F | C23H19F3N2O3
